US04167576
C. 2-Cyano-2-(2-phenoxyphenyl)hexyl bromide
Into a three-necked 300 ml round bottom flask are charged 10 g (0.038 mole) of 2-(2-phenoxyphenyl) hexanenitrile, 6.6 g (0.038 mole) of dibromomethane and 50 ml of dimethyl sulfoxide. To this mixture with stirring is added 3.2 g (0.04 mole) of 50% sodium hydroxide solution dropwise. Reaction mixture is heated to give 60° for two hours and then poured into water and extracted with hexane. Combined hexane extracts are washed with water and dried over MgSO4. Solvent is evaporated under vacuum to give 11.2 g of product.

reactant | 2-(2-phenoxyphenyl) hexanenitrile | 0.038 mole, 10 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)C(C#N)CCCC | C18H19NO
reactant | dibromomethane | 0.038 mole, 6.6 g | BrCBr | CH2Br2
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.04 mole, 3.2 g | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Cyano-2-(2-phenoxyphenyl)hexyl bromide | 11.2 g | C(#N)C(CBr)(CCCC)C1=C(C=CC=C1)OC1=CC=CC=C1 | C19H20BrNO
